*******************************************************************
* Comparator
*******************************************************************
.subckt comp in+ in- out
E1 out 0 value = {if(V(in+, in-)>0, {Vhigh}, {Vlow})}
Rin+ in+ 0 10Meg
Rin- in- 0 10Meg
.ends comp
